US04093736
A suspension of 0.5 mole of 6-(4-hydroxyphenyl)hexyl bromide [prepared from 6-(4-methoxyphenyl)hexyl bromide and boron tribromide in methylene dichloride according to the procedure of Example 42f], 0.125 mole of potassium iodide, 1.15 moles of 3,5-heptanedione and 1.05 moles of powdered anhydrous potassium carbonate (dried in vacuo for 2 hours) in 2 liters of acetone is stirred at reflux for 24 hours. One liter of solvent is distilled off and the remainder of the reaction mixture is poured with stirring into a solution of 4 liters of ice-water containing 160 ml. of concentrated hydrochloric acid. The separated product is extracted with ether and the ether extracts washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The ether is distilled off in vacuo and the excess 3,5-heptanedione removed at 70° C. (0.8 mm.) in a rotary evaporator. The residual product is crystallized from isopropyl alcohol-pentane to give 4-[6-(4-hydroxyphenyl)hexyl]-3,5-heptanedione.

reactant | 6-(4-hydroxyphenyl)hexyl bromide | 0.5 mole | OC1=CC=C(C=C1)CCCCCCBr | C12H17BrO
reactant | 6-(4-methoxyphenyl)hexyl bromide | COC1=CC=C(C=C1)CCCCCCBr | C13H19BrO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | potassium iodide | 0.125 mole | [I-].[K+]
reactant | 3,5-heptanedione | 1.15 moles | CCC(CC(CC)=O)=O | C7H12O2
reactant | potassium carbonate | 1.05 moles | C([O-])([O-])=O.[K+].[K+]
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 2 liters | CC(=O)C | C3H6O
product | 4-[6-(4-hydroxyphenyl)hexyl]-3,5-heptanedione | OC1=CC=C(C=C1)CCCCCCC(C(CC)=O)C(CC)=O | C19H28O3
